US04888341
1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-{[2-(2-ethoxy)ethoxy]ethoxy}-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate
A solution of mitomycin A (100 mg or 0.286 mmole) in 4 ml of diethylene glycol monoethyl ether was stirred at room temperature and under nitrogen for 45 minutes with 480 mg of a 1.6% solution of KOH in diethylene glycol monoethyl ether. The reaction mixture was decomposed with excess dry ice while immersing the flask into a water bath at room temperature. It was then isolated on a silica gel column using CHCl3 -MeOH 9:1 as solvent. Final purification was achieved by preparative thin layer chromatography on silica gel with a mixture of CHCl3 -MeOH 9:1. This procedure resulted in 80 mg (62%) of the title compound, having a melting point of 140°-143° C. (decomposition) and providing the following analysis:

reactant | mitomycin A | 0.286 mmole, 100 mg | CC1=C(C(=O)C2=C(C1=O)N3C[C@H]4[C@@H]([C@@]3([C@@H]2COC(=O)N)OC)N4)OC | C16H19N3O6
reactant | KOH | [OH-].[K+]
reactant | dry ice | C(=O)=O | CO2
reactant | diethylene glycol monoethyl ether | 4 ml | C(C)OCCOCCO | C6H14O3
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | 1,1a,2,8,8a,8b-Hexahydro-8-(hydroxymethyl)-8a-methoxy-5-methyl-6-{[2-(2-ethoxy)ethoxy]ethoxy}-azirino[2',3':3,4]pyrrolo[1,2-a]indole-4,7-dione carbamate | 80 mg, 62% | C(N)(O)=O.OCC1C2(N(C=3C(C(=C(C(C13)=O)OCCOCCOCC)C)=O)CC1C2N1)OC | InChI=1S/C20H28N2O7.CH3NO2/c1-4-27-5-6-28-7-8-29-18-11(2)16(24)15-14(17(18)25)12(10-23)20(26-3)19-13(21-19)9-22(15)20;2-1(3)4/h12-13,19,21,23H,4-10H2,1-3H3;2H2,(H,3,4)
